US07459448B2
2-Amino-10-bromo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-44)
In a manner similar to that described in method H, 7-bromo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-k) and guanidine were converted to I-44 (79%): HRMS Calcd. for C12H9BrN4O: 305.0037, Found 305.0042.

reactant | 7-bromo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | BrC1=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C=C1 | C13H13BrN2O2
reactant | guanidine | NC(=N)N | CH5N3
product | 2-Amino-10-bromo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)Br)N1 | C12H9BrN4O
